US04522646
24.5 parts by weight of 3,7-dichloro-8-chloromethylquinoline and 13 parts by weight of sodium formate in 220 parts by weight of dimethylsulfoxide are heated for 6 hours at 100° C. The mixture is then cooled, water is added and the precipitated product is filtered off under suction and recrystallized from toluene. 21.5 parts by weight (84% of theory) of 3,7-dichloro-8-formyloxymethylquinoline of melting point 146° C. are obtained.

reactant | 3,7-dichloro-8-chloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CCl | C10H6Cl3N
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3,7-dichloro-8-formyloxymethylquinoline | 84% | ClC=1C=NC2=C(C(=CC=C2C1)Cl)COC=O | C11H7Cl2NO2
